US07145030B2
To a solution of 6.22 mg (48 mmol) of methyl 3-ketovalerate in 48 ml methanol, 36 mg (0.004 mmol) RuCl2(S)-binap was added and stirred in an autoclave under a hydrogen pressure of 30 atm at 80° C. for 66 hours. After concentration and distillation, 5.71 g (43.2 mmol, 97% ee) of methyl (S)-3-hydroxyvalerate was obtained. The condition of chiral HPLC is the following. Column, CHIRALPAK OD manufactured by Daicel Chemical Industries, Ltd.; Eluate, Hexane:2-propanol=95:5; flow rate, 1.0 mL/min; Wavelength of detection, 210 nm; Temperature, 25° C.; Retention time, 15 min (R) and 27 min (S).

reactant | methyl 3-ketovalerate | 48 mmol, 6.22 mg | O=C(CC(=O)OC)CC | C6H10O3
solvent | methanol | 48 ml | CO | CH4O
product | methyl (S)-3-hydroxyvalerate | 43.2 mmol, 5.71 g | O[C@H](CC(=O)OC)CC | C6H12O3
